US09340549B2
To a solution of (S)-tert-butyl (2-hydroxy-2-methyl-1-(o-tolyl)propyl)carbamate (1 g, 3.5 mmol) in THF (20 mL) was added potassium tert-butoxide (803.37 mg, 7.1 mmol) at 0-5° C. The resulting reaction mixture was stirred for 2 hours at ambient temperature. After completion of the reaction (monitored by TLC, TLC system: 50% EtOAc in hexane), the reaction mixture was quenched with ice water and extracted with EtOAc. The combined organic layers were washed with, water, washed with saturated NaCl solution, dried with Na2SO4, filtered and evaporated to afford (S)-5,5-dimethyl-4-(o-tolyl)oxazolidin-2-one, 0.7 g (95.28% Y) as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 7.96 (s, 1H), 7.27-7.25 (m, 1H), 7.22-7.19 (m, 3H), 4.83 (s, 1H), 2.29 (s, 3H), 1.55 (s, 3H), 0.81 (s, 3H). m/z (ESI) 206.1 (M+H)+.

reactant | (S)-tert-butyl (2-hydroxy-2-methyl-1-(o-tolyl)propyl)carbamate | 3.5 mmol, 1 g | OC([C@H](C1=C(C=CC=C1)C)NC(OC(C)(C)C)=O)(C)C | C16H25NO3
reactant | potassium tert-butoxide | 7.1 mmol, 803.37 mg | CC(C)([O-])C.[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | (S)-5,5-dimethyl-4-(o-tolyl)oxazolidin-2-one | CC1([C@@H](NC(O1)=O)C1=C(C=CC=C1)C)C | C12H15NO2
